US04816467
3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanenitrile (2.1 g) is reacted with phenyl isocyanate (0.8 g) in the presence of triethylamine (0.75 g) in dimethylformamide (20 ml) under stirring at 25°-30° C. for 90 minutes. The reaction mixture is diluted with ice water, acidified to pH 2 with HCl and the precipitate is filtered and washed with water. Crystallization from dichloromethane/methanol gives 2.5 g of 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 280°-282° C., NMR (CDCl3) δppm: 5.54 (s) (2H, --CH2O--), 6.7-7.7 (m) (14H, phenyl protons), 8.94 (s) (1H, CONH--), 16.4 (bs) (1H, enol).

reactant | 3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanenitrile | 2.1 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=C(OC2)C=CC=C1)C(CC#N)=O | C19H13N3O2
reactant | phenyl isocyanate | 0.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 2.5 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(OC2)C=CC=C1 | C26H18N4O3
